US09382188B2
step 4) ethyl 4-cyano-3-(3-(hydroxymethyl)phenyl)-4-methylpentanoate
Conc. hydrochloric acid (1.10 mL) was added to a solution of ethyl 4-cyano-3-(3-((methoxymethoxy)methyl)phenyl)-4-methylpentanoate (210 mg) in methanol (2 mL) at room temperature, and the mixture was stirred at 60° C. for 1 hr. The reaction mixture was diluted with ethyl acetate, water was added at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give a mixture (147 mg) of the title compound and methyl ester thereof. This compound was used for the next step without further purification.

reactant | hydrochloric acid | 1.10 mL | Cl | ClH
reactant | ethyl 4-cyano-3-(3-((methoxymethoxy)methyl)phenyl)-4-methylpentanoate | 210 mg | C(#N)C(C(CC(=O)OCC)C1=CC(=CC=C1)COCOC)(C)C | C18H25NO4
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl 4-cyano-3-(3-(hydroxymethyl)phenyl)-4-methylpentanoate | 147 mg | C(#N)C(C(CC(=O)OCC)C1=CC(=CC=C1)CO)(C)C | C16H21NO3
